US05290780
2-Butyl-6-(1-hydroxyethyl)-3-[[2'-(1H-tetrazol-5-yl)-[1,1'-biphenyl]-4-yl]methyl]-4(3H)-quinazolinone
To a suspension of 2.00 g of 2-butyl-6-(1-hydroxyethyl)-3-[[2'-[1-(triphenylmethyl)-1H-tetrazol-5-yl][1,1'biphenyl]-4-yl]methyl]-4(3H)-quinazolinone in 70 ml of 3:1 acetone-water is added one drop of 5% aqueous hydrochloric acid solution. The mixture is then heated at reflux for 16 hours. After cooling, the reaction mixture is concentrated in vacuo and the residue purified by flash chromatography on silica gel by elution with 9:1 chloroform-methanol to afford 0.915 g of the desired product as a white solid, m.p. 146°-147° C.

reactant | 2-butyl-6-(1-hydroxyethyl)-3-[[2'-[1-(triphenylmethyl)-1H-tetrazol-5-yl][1,1'biphenyl]-4-yl]methyl]-4(3H)-quinazolinone | 2.00 g | C(CCC)C1=NC2=CC=C(C=C2C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(C)O | C47H42N6O2
solvent | acetone water | 70 ml | CC(=O)C.O
catalyst | hydrochloric acid | one drop | Cl | ClH
product | 2-Butyl-6-(1-hydroxyethyl)-3-[[2'-(1H-tetrazol-5-yl)-[1,1'-biphenyl]-4-yl]methyl]-4(3H)-quinazolinone | 0.915 g | C(CCC)C1=NC2=CC=C(C=C2C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)=O)C(C)O | C28H28N6O2
